US06509361B1
Step 4: Preparation of 2-Cyano-4-[1-(3-methylphenyl)-3-methyl-1H-pyrazol-5-yl]pyridine
To a mixture of 1-(2-cyanoisonicotinyl)-1,3-butanedione (1.10 g, 0.0058 mol) and 3-methylphenylhydrazine hydrochloride (0.97 g, 0.0061 mol) in 20 mL of ethanol was added triethylamine (0.85 mL, 0.0061 mol) dropwise. The reaction mixture was heated at reflux overnight (about eighteen hours). The solvent was removed and the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and the crude product was purified by chromatography on silica gel (ethyl acetate/hexane, 2:8) to give 1.30 g (87% yield) of product as a yellow solid: mp: 128-130° C.; Anal. Calc'd. for C17H14N4: C, 74.43; H, 5.14; N, 20.42. Found: C, 74.53; H, 5.22; N, 20.29.

reactant | 1-(2-cyanoisonicotinyl)-1,3-butanedione | 0.0058 mol, 1.10 g | C(#N)C=1C=C(CC(CC(C)=O)=O)C=CN1 | C11H10N2O2
reactant | 3-methylphenylhydrazine hydrochloride | 0.0061 mol, 0.97 g | Cl.CC=1C=C(C=CC1)NN
reactant | triethylamine | 0.0061 mol, 0.85 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-Cyano-4-[1-(3-methylphenyl)-3-methyl-1H-pyrazol-5-yl]pyridine | 1.30 g, 87% yield | C(#N)C1=NC=CC(=C1)C1=CC(=NN1C1=CC(=CC=C1)C)C | C17H14N4
